US07632832B2
4-(3-Oxo-1-phenyl-2,3-dihydro-1H-pyrazol-4-yl)-N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]piperidine-1-carboxamide
(3R)-3-Amino-5-phenyl-1-(2,2,2-trifluoroethyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one (137 mg, 0.411 mmol) (Y.-J. Shi et al., Tetrahedron, 1999, 55, 909-918) and triethylamine (0.057 mL, 0.411 mmol) were added to a solution of p-nitrophenylchloroformate (83 mg, 0.411 mmol) in tetrahydrofuran (20 mL) at 0° C. After 1 h, 1-phenyl-4-piperidin-4-yl-1,2-dihydro-3H-pyrazol-3-one (50 mg, 0.205 mmol) and additional triethylamine (0.171 mL, 1.23 mmol) were added and the reaction warmed to ambient temperature and was then heated at 50° C. After 4 h, the reaction was concentrated and partitioned between ethyl acetate and saturated sodium bicarbonate. The organics were washed with water, brine, and dried over magnesium sulfate. Purification by silica gel chromatography (100% dichloromethane→10% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound (27 mg). MS 603.23 (M+1)

reactant | (3R)-3-Amino-5-phenyl-1-(2,2,2-trifluoroethyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.411 mmol, 137 mg | N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C17H14F3N3O
reactant | triethylamine | 0.411 mmol, 0.057 mL | C(C)N(CC)CC | C6H15N
reactant | 1-phenyl-4-piperidin-4-yl-1,2-dihydro-3H-pyrazol-3-one | 0.205 mmol, 50 mg | C1(=CC=CC=C1)N1NC(C(=C1)C1CCNCC1)=O | C14H17N3O
reactant | triethylamine | 1.23 mmol, 0.171 mL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-(3-Oxo-1-phenyl-2,3-dihydro-1H-pyrazol-4-yl)-N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]piperidine-1-carboxamide | 27 mg | O=C1NN(C=C1C1CCN(CC1)C(=O)N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O)C2=CC=CC=C2 | C32H29F3N6O3
